US07199147B2
A 1N-hydrochloric acid/ether solution (5 ml) was added to a solution of N-(4-piperidinyl)-1H-indazol-5-amine (433 mg, 2.00 mmol) in a mixture of chloroform (4 ml) and methanol (4 ml) at room temperature and stirred at room temperature for 30 minutes. The solid precipitated was collected by filtration and recrystallized from a mixture of chloroform and methanol to obtain N-(4-piperidinyl)-1H-indazol-5-amine dihydrochloride monohydrate (2.86 g, 72%).

reactant | hydrochloric acid ether | 5 ml | Cl.CCOCC
reactant | N-(4-piperidinyl)-1H-indazol-5-amine | 2.00 mmol, 433 mg | N1CCC(CC1)NC=1C=C2C=NNC2=CC1 | C12H16N4
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 4 ml | CO | CH4O
product | N-(4-piperidinyl)-1H-indazol-5-amine dihydrochloride monohydrate | 2.86 g, 72% | O.Cl.Cl.N1CCC(CC1)NC=1C=C2C=NNC2=CC1 | InChI=1S/C12H16N4.2ClH.H2O/c1-2-12-9(8-14-16-12)7-11(1)15-10-3-5-13-6-4-10;;;/h1-2,7-8,10,13,15H,3-6H2,(H,14,16);2*1H;1H2
